US04971982
2.96 g of 2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran-6-carbonitrile were dissolved in 100 ml of ethanol and added at room temperature to 100 mg of 10% palladium-on-charcoal. The mixture was shaken at room temperature under a hydrogen atmosphere for 2 hours. The catalyst was then removed by filtration and the filtrate was evaporated. The residue was chromatographed on silica gel using ethyl acetate/petroleum ether (1:2) for the elution. There were obtained 2.44 g of 3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran-6-carbonitrile of melting point 114-115° C.

reactant | 2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran-6-carbonitrile | 2.96 g | CC1(OC2=C(C(=C1)C1=NC=CC=C1)C=C(C=C2)C#N)C | C17H14N2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran-6-carbonitrile | 2.44 g | CC1(OC2=C(C(C1)C1=NC=CC=C1)C=C(C=C2)C#N)C | C17H16N2O
